US04478849
2-(4-Carbomethoxyphenyl)-1-methylethanamine
1-(4-Carbomethoxyphenyl)propan-2-one oxime (10.0 g) in absolute alcohol (200 ml) and chloroform (25 ml) was hydrogenated on a Parr hydrogenator at 50 psi and at 50° in the presence of platinum oxide (250 mg) until hydrogen uptake had ceased. The catalyst was removed and the residue was recrystallised as the hydrochloride from methanol/ethyl acetate, mp 206°-210° (8.5 g). γ(d6DMSO) 8.84 (3H, d, 6 Hz), 6.2-7.5 (3H, m), 6.17 (3H, s), 2.59 (2H, d, J=8 Hz), 2.09 (2H, d, J=8 Hz), 1.50 (2H, br).

reactant | 1-(4-Carbomethoxyphenyl)propan-2-one oxime | 10.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)=NO | C11H13NO3
reactant | hydrogen | [H][H] | H2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | platinum oxide | 250 mg | [Pt]=O
product | 2-(4-Carbomethoxyphenyl)-1-methylethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(N)C | C11H15NO2
